### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries/Nonvanishing): new file

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This is a substantial step on the way to PNT and Dirichlet's Theorem: it adds the fact that the L-function of a Dirichlet character does not vanish on the closed right half-plane `Re(s) ≥ 1`.

From [EulerProducts](https://github.com/MichaelStollBayreuth/EulerProducts).

See [here](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/Prerequisites.20for.20PNT.20and.20Dirichlet's.20Thm/near/482385971) on Zulip.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 1]
```diff
@@ -0,0 +1,241 @@
...
+private lemma re_log_comb_nonneg {a : ℝ} (ha₀ : 0 ≤ a) (ha₁ : a < 1) {z : ℂ} (hz : ‖z‖ = 1) :
+      0 ≤ 3 * (-log (1 - a)).re + 4 * (-log (1 - a * z)).re + (-log (1 - a * z ^ 2)).re := by
+  have hac₀ : ‖(a : ℂ)‖ < 1 := by
+    simp only [norm_eq_abs, abs_ofReal, _root_.abs_of_nonneg ha₀, ha₁]
+  have hac₁ : ‖a * z‖ < 1 := by rwa [norm_mul, hz, mul_one]
+  have hac₂ : ‖a * z ^ 2‖ < 1 := by rwa [norm_mul, norm_pow, hz, one_pow, mul_one]
+  have H₀ := (hasSum_re <| hasSum_taylorSeries_neg_log hac₀).mul_left 3
+  have H₁ := (hasSum_re <| hasSum_taylorSeries_neg_log hac₁).mul_left 4
+  have H₂ := hasSum_re <| hasSum_taylorSeries_neg_log hac₂
+  rw [← ((H₀.add H₁).add H₂).tsum_eq]; clear H₀ H₁ H₂
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:38]: alternative:
```suggestion
  rw [← ((hasSum_re <| hasSum_taylorSeries_neg_log hac₀).mul_left 3).add
    ((hasSum_re <| hasSum_taylorSeries_neg_log hac₁).mul_left 4) |>.add
    (hasSum_re <| hasSum_taylorSeries_neg_log hac₂) |>.tsum_eq]
```

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 2]
```diff
@@ -0,0 +1,241 @@
...
+  refine tsum_nonneg fun n ↦ ?_
+  simp only [← ofReal_pow, div_natCast_re, ofReal_re, mul_pow, mul_re, ofReal_im, zero_mul,
+    sub_zero]
+  rcases n.eq_zero_or_pos with rfl | hn
+  · simp only [pow_zero, CharP.cast_eq_zero, div_zero, mul_zero, one_re, mul_one, add_zero,
+     le_refl]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:44]:
```suggestion
  · simp only [pow_zero, Nat.cast_zero, div_zero, mul_zero, one_re, mul_one, add_zero, le_refl]
```

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 3]
```diff
@@ -0,0 +1,241 @@
...
+  · simp only [← mul_div_assoc, ← add_div]
+    refine div_nonneg ?_ n.cast_nonneg
+    rw [← pow_mul, pow_mul', sq, mul_re, ← sq, ← sq, ← sq_abs_sub_sq_re, ← norm_eq_abs, norm_pow,
+      hz]
+    calc
+     0 ≤ 2 * a ^ n * ((z ^ n).re + 1) ^ 2 := by positivity
+      _ = _  := by ring
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:51]: alternative (not clear if it's actually better):
```suggestion
    convert (show 0 ≤ 2 * a ^ n * ((z ^ n).re + 1) ^ 2 by positivity) using 1
    ring
```

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 4]
```diff
@@ -0,0 +1,241 @@
...
+    · congr 2
+      exact_mod_cast (ofReal_cpow n.cast_nonneg (-x)).symm
+    · congr 2
+      rw [neg_add, cpow_add _ _ <| mod_cast by omega, ← ofReal_neg, ofReal_cpow n.cast_nonneg (-x),
+        ofReal_natCast, mul_left_comm]
+    · rw [neg_add, cpow_add _ _ <| mod_cast by omega, ← ofReal_neg, ofReal_cpow n.cast_nonneg (-x),
+        ofReal_natCast, show -(2 * I * y) = (2 : ℕ) * -(I * y) by ring, cpow_nat_mul, mul_pow,
+        mul_left_comm]
+  · simp only [MulChar.map_nonunit _ hn', zero_mul, sub_zero, log_one, neg_zero, zero_re, mul_zero,
+      neg_add_rev, add_zero, ne_eq, OfNat.ofNat_ne_zero, not_false_eq_true, zero_pow, le_refl]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:83]: better:
```suggestion
  · simp only [MulChar.map_nonunit _ hn', zero_mul, sub_zero, log_one, neg_zero, zero_re, mul_zero,
      neg_add_rev, add_zero, pow_two, le_refl]
```

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 5]
```diff
@@ -0,0 +1,241 @@
...
+
+/-- The logarithms of the Euler factors of a Dirichlet L-series form a summable sequence. -/
+lemma summable_neg_log_one_sub_mul_prime_cpow {s : ℂ} (hs : 1 < s.re) :
+    Summable fun p : Nat.Primes ↦ -log (1 - χ p * (p : ℂ) ^ (-s)) := by
+  have (p : Nat.Primes) : ‖χ p * (p : ℂ) ^ (-s)‖ ≤ (p : ℝ) ^ (-s).re := by
+    rw [norm_mul, norm_natCast_cpow_of_re_ne_zero _ <| re_neg_ne_zero_of_one_lt_re hs]
+    conv_rhs => rw [← one_mul (_ ^ _)]
+    gcongr
+    exact DirichletCharacter.norm_le_one χ _
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:92]:
```suggestion
    simpa only [norm_mul, norm_natCast_cpow_of_re_ne_zero _ <| re_neg_ne_zero_of_one_lt_re hs]
      using mul_le_of_le_one_left (by positivity) (χ.norm_le_one _)
```

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 6]
```diff
@@ -0,0 +1,241 @@
...
+      exact .inr <| Real.one_lt_rpow (mod_cast one_lt_two.trans_le hn) <| zero_lt_one.trans hx
+    have hz : ‖χ n * (n : ℂ) ^ (-(I * y))‖ = 1 := by
+      rw [norm_mul, ← hn'.unit_spec, DirichletCharacter.unit_norm_eq_one χ hn'.unit,
+        norm_eq_abs, ← ofReal_natCast, abs_cpow_eq_rpow_re_of_pos (mod_cast by omega)]
+      simp only [neg_re, mul_re, I_re, ofReal_re, zero_mul, I_im, ofReal_im, mul_zero, sub_self,
+        neg_zero, Real.rpow_zero, one_mul]
+    rw [MulChar.one_apply hn', one_mul]
+    convert _root_.re_log_comb_nonneg ha₀ ha₁ hz using 6
+    · congr 2
+      exact_mod_cast (ofReal_cpow n.cast_nonneg (-x)).symm
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:75]:
```suggestion
    · simp only [ofReal_cpow n.cast_nonneg (-x), ofReal_natCast, ofReal_neg] 
```

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 7]
```diff
@@ -0,0 +1,241 @@
...
+  simp only [neg_re, neg_lt_neg_iff, hs]
+
+private lemma one_lt_re_one_add {x : ℝ} (hx : 0 < x) (y : ℝ) :
+    1 < (1 + x : ℂ).re ∧ 1 < (1 + x + I * y).re ∧ 1 < (1 + x + 2 * I * y).re := by
+  simp only [add_re, one_re, ofReal_re, lt_add_iff_pos_right, hx, mul_re, I_re, zero_mul, I_im,
+    ofReal_im, mul_zero, sub_self, add_zero, re_ofNat, im_ofNat, mul_one, mul_im, and_self]
+
+open scoped LSeries.notation in
+/-- For positive `x` and nonzero `y` and a Dirichlet character `χ` we have that
+$|L(\chi^0, x)^3 \cdot L(\chi, x+iy)^4 \cdot L(\chi^2, x+2iy)| \ge 1$. -/
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:104]: If you hover over the lemma name, the docstring is displayed with the latex un-processed, so I think using unicode text would be better.

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 8]
```diff
@@ -0,0 +1,241 @@
...
+  rw [← LSeries_eulerProduct_exp_log _ h₀, ← LSeries_eulerProduct_exp_log χ h₁,
+    ← LSeries_eulerProduct_exp_log _ h₂]
+  simp only [← exp_nat_mul, Nat.cast_ofNat, ← exp_add, norm_eq_abs, abs_exp, add_re, mul_re,
+    re_ofNat, im_ofNat, zero_mul, sub_zero, Real.one_le_exp_iff]
+  rw [re_tsum H₀, re_tsum H₁, re_tsum H₂, ← tsum_mul_left, ← tsum_mul_left,
+    ← tsum_add hsum₀ hsum₁, ← tsum_add (hsum₀.add hsum₁) hsum₂]
+  simp only [χ.pow_apply' two_ne_zero]
+  have hx₁ : (1 + x : ℂ).re = 1 + (x : ℂ) := by
+    simp only [add_re, one_re, ofReal_re, ofReal_add, ofReal_one]
+  exact tsum_nonneg fun p ↦ hx₁ ▸ χ.re_log_comb_nonneg p.prop.two_le h₀ y
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:124]: golf:
```suggestion
  simpa only [neg_add_rev, neg_re, mul_neg, χ.pow_apply' two_ne_zero, ge_iff_le, add_re, one_re,
    ofReal_re, ofReal_add, ofReal_one] using
      tsum_nonneg fun (p : Nat.Primes) ↦ χ.re_log_comb_nonneg p.prop.two_le h₀ y
```

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 9]
```diff
@@ -0,0 +1,241 @@
...
+    have H : Tendsto (fun w ↦ w * LFunctionTrivChar N (1 + w)) (𝓝[≠] 0)
+               (𝓝 <| ∏ p ∈ N.primeFactors, (1 - (p : ℂ)⁻¹)) := by
+      convert (LFunctionTrivChar_residue_one (N := N)).comp (f := fun w ↦ 1 + w) ?_ using 1
+      · ext1 w
+        simp only [Function.comp_apply, add_sub_cancel_left]
+      · refine tendsto_iff_comap.mpr <| map_le_iff_le_comap.mp <| Eq.le ?_
+        convert map_punctured_nhds_eq (Homeomorph.addLeft (1 : ℂ)) 0 using 2 <;>
+          simp only [coe_addLeft, add_zero]
+    exact ((isBigO_mul_iff_isBigO_div eventually_mem_nhdsWithin).mp <|
+      Tendsto.isBigO_one ℂ H).trans <| isBigO_refl ..
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:152]: using transitivity and reflexivity together is redundant!
```suggestion
    exact ((isBigO_mul_iff_isBigO_div eventually_mem_nhdsWithin).mp <| H.isBigO_one ℂ)
```

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 10]
```diff
@@ -0,0 +1,241 @@
...
+    (fun x : ℝ ↦ LFunctionTrivChar N (1 + x)) =O[𝓝[>] 0] fun x ↦ (1 : ℂ) / x := by
+  have : (fun w : ℂ ↦ LFunctionTrivChar N (1 + w)) =O[𝓝[≠] 0] (1 / ·) := by
+    have H : Tendsto (fun w ↦ w * LFunctionTrivChar N (1 + w)) (𝓝[≠] 0)
+               (𝓝 <| ∏ p ∈ N.primeFactors, (1 - (p : ℂ)⁻¹)) := by
+      convert (LFunctionTrivChar_residue_one (N := N)).comp (f := fun w ↦ 1 + w) ?_ using 1
+      · ext1 w
+        simp only [Function.comp_apply, add_sub_cancel_left]
+      · refine tendsto_iff_comap.mpr <| map_le_iff_le_comap.mp <| Eq.le ?_
+        convert map_punctured_nhds_eq (Homeomorph.addLeft (1 : ℂ)) 0 using 2 <;>
+          simp only [coe_addLeft, add_zero]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:150]:
```suggestion
      · simpa only [tendsto_iff_comap, Homeomorph.coe_addLeft, add_zero, map_le_iff_le_comap] using
          ((Homeomorph.addLeft (1 : ℂ)).map_punctured_nhds_eq 0).le
```

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 11]
```diff
@@ -0,0 +1,241 @@
...
+
+open Homeomorph in
+lemma LFunctionTrivChar_isBigO_near_one_horizontal :
+    (fun x : ℝ ↦ LFunctionTrivChar N (1 + x)) =O[𝓝[>] 0] fun x ↦ (1 : ℂ) / x := by
+  have : (fun w : ℂ ↦ LFunctionTrivChar N (1 + w)) =O[𝓝[≠] 0] (1 / ·) := by
+    have H : Tendsto (fun w ↦ w * LFunctionTrivChar N (1 + w)) (𝓝[≠] 0)
+               (𝓝 <| ∏ p ∈ N.primeFactors, (1 - (p : ℂ)⁻¹)) := by
+      convert (LFunctionTrivChar_residue_one (N := N)).comp (f := fun w ↦ 1 + w) ?_ using 1
+      · ext1 w
+        simp only [Function.comp_apply, add_sub_cancel_left]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:147]:
```suggestion
      · simp only [Function.comp_def, add_sub_cancel_left]
```

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 12]
```diff
@@ -0,0 +1,241 @@
...
+  exact norm_LSeries_product_ge_one χ hx y
+
+open Asymptotics Topology Filter
+
+open Homeomorph in
+lemma LFunctionTrivChar_isBigO_near_one_horizontal :
+    (fun x : ℝ ↦ LFunctionTrivChar N (1 + x)) =O[𝓝[>] 0] fun x ↦ (1 : ℂ) / x := by
+  have : (fun w : ℂ ↦ LFunctionTrivChar N (1 + w)) =O[𝓝[≠] 0] (1 / ·) := by
+    have H : Tendsto (fun w ↦ w * LFunctionTrivChar N (1 + w)) (𝓝[≠] 0)
+               (𝓝 <| ∏ p ∈ N.primeFactors, (1 - (p : ℂ)⁻¹)) := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:144]:
```suggestion
    have H : Tendsto (fun w ↦ w * LFunctionTrivChar N (1 + w)) (𝓝[≠] 0)
        (𝓝 <| ∏ p ∈ N.primeFactors, (1 - (p : ℂ)⁻¹)) := by
```
(always use an even indent depth)

**Review by loefflerd — COMMENTED** [review]
Here are some comments. Didn't quite get to the end (my train is about to arrive).

General remark on the end: is it worth having separate lemmas for the specific non-vanishing at `s = 1` as well as the general `re s = 1` statement?

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Nonvanishing.lean:44]: Our old friend `CharP.cast_eq_zero` ...

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Nonvanishing.lean:51]: It saves a line is certainly not worse.

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 13]
```diff
@@ -0,0 +1,231 @@
...
+lemma LFunctionTrivChar_isBigO_near_one_horizontal :
+    (fun x : ℝ ↦ LFunctionTrivChar N (1 + x)) =O[𝓝[>] 0] fun x ↦ (1 : ℂ) / x := by
+  have : (fun w : ℂ ↦ LFunctionTrivChar N (1 + w)) =O[𝓝[≠] 0] (1 / ·) := by
+    have H : Tendsto (fun w ↦ w * LFunctionTrivChar N (1 + w)) (𝓝[≠] 0)
+        (𝓝 <| ∏ p ∈ N.primeFactors, (1 - (p : ℂ)⁻¹)) := by
+      convert (LFunctionTrivChar_residue_one (N := N)).comp (f := fun w ↦ 1 + w) ?_ using 1
+      · simp only [Function.comp_def, add_sub_cancel_left]
+      · simpa only [tendsto_iff_comap, Homeomorph.coe_addLeft, add_zero, map_le_iff_le_comap] using
+          ((Homeomorph.addLeft (1 : ℂ)).map_punctured_nhds_eq 0).le
+    exact ((isBigO_mul_iff_isBigO_div eventually_mem_nhdsWithin).mp <| H.isBigO_one ℂ)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:142]:
```suggestion
    exact (isBigO_mul_iff_isBigO_div eventually_mem_nhdsWithin).mp <| H.isBigO_one ℂ
```

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean (hunk 7 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Nonvanishing.lean:98]: Will do.

**Comment by MichaelStollBayreuth** [comment]
> Here are some comments. Didn't quite get to the end (my train is about to arrive).
> 
> General remark on the end: is it worth having separate lemmas for the specific non-vanishing at `s = 1` as well as the general `re s = 1` statement?

@loefflerd Thanks! It is amazing how much room for improvement there still is :smile: 

If you think it makes sense having a separate lemma for the special case `s = 1`, I can of course easily add it. Do you have some specific use case in mind?

**Comment by loefflerd** [comment]
> If you think it makes sense having a separate lemma for the special case s = 1, I can of course easily add it. Do you have some specific use case in mind?

Orders of vanishing of L-series at integers are, let's say,  interesting in certain contexts :-)

**Comment by MichaelStollBayreuth** [comment]
OK; added `DirichletCharacter.Lfunction_apply_one_ne_zero`.

Regarding merging `QuadraticNonvanishing` into this file: as the main result there will end up a special case of this newly added result, I propose to make everything coming from there `private` (in the follow-up PR merging the files). Any objections?

**Comment by MichaelStollBayreuth** [comment]
@loefflerd Did you have time to look at the remainder of the file?

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean [hunk 14]
```diff
@@ -0,0 +1,237 @@
...
+variable {χ} in
+/-- The L-function of a nontrivial Dirichlet character does not vanish at `s = 1`. -/
+theorem Lfunction_apply_one_ne_zero (hχ : χ ≠ 1) : LFunction χ 1 ≠ 0 :=
+  Lfunction_ne_zero_of_one_le_re χ (.inl hχ) <| one_re ▸ le_rfl
+
+end DirichletCharacter
+
+open DirichletCharacter in
+/-- The Riemann Zeta Function does not vanish on the closed half-plane `re s ≥ 1`. -/
+lemma riemannZeta_ne_zero_of_one_le_re ⦃s : ℂ⦄ (hz : s ≠ 1) (hz' : 1 ≤ s.re) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Nonvanishing.lean:233]: There is no `z` here. Also the hypothesis `hz` is redundant because of docs#riemannZeta_one_ne_zero. I know it's not a mathematically interesting statement, but it means one fewer hypothesis to verify. 

(We could even add a little argument to show non-vanishing at `s = 1` for the trivial character modulo `N > 1`, using that the factor relating the L-series of the trivial char mod N to `riemannZeta` is non-vanishing outside s = 0. But we can leave that for another PR if you prefer.)

**Review by loefflerd — COMMENTED** [review]
Here are some comments on the last part of the file.

File: Mathlib/NumberTheory/LSeries/Nonvanishing.lean (hunk 14 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Nonvanishing.lean:233]: I had changed `z` into `s` earlier, but forgot to change the names of the assumptions, too.

I think I would like to leave removing the `χ ≠ 1` assumption in the previous lemma for a separate PR.

**Comment by loefflerd** [comment]
Looks great now, thanks!

maintainer merge
